US07091211B2
Step E: tert-Butyl 1-(1-hydroxyprop-1-yl)-2-hydroxy-8-azaspiro[4.5]decane-8-carboxylate
To a solution of tert-butyl 1-(1-hydroxyprop-1-yl)-2-(tert-butyldimethylsilyloxy)-8-azaspiro[4.5]decane-8-carboxylate (0.248 g, 0.58 mmol) in THF (15 mL) was added 1M tetrabutylammonium fluoride in THF (2.3 mL, 2.3 mmol). The solution was stirred at room temperature for 4 h and was then diluted with ethyl acetate, poured into IN HCl, and extracted twice with ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate, filtered, and concentrated. The residue was purified by flash chromatography eluting with 50% ethyl acetate in hexanes to afford the title compound (0.18 g) as a mixture of isomers.

reactant | tert-butyl 1-(1-hydroxyprop-1-yl)-2-(tert-butyldimethylsilyloxy)-8-azaspiro[4.5]decane-8-carboxylate | 0.58 mmol, 0.248 g | OC(CC)C1C(CCC12CCN(CC2)C(=O)OC(C)(C)C)O[Si](C)(C)C(C)(C)C | C23H45NO4Si
reactant | tetrabutylammonium fluoride | 1M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | HCl | Cl | ClH
solvent | THF | 2.3 mmol, 2.3 mL | C1CCOC1 | C4H8O
product | tert-Butyl 1-(1-hydroxyprop-1-yl)-2-hydroxy-8-azaspiro[4.5]decane-8-carboxylate | 0.18 g | OC(CC)C1C(CCC12CCN(CC2)C(=O)OC(C)(C)C)O | C17H31NO4
